US06180627B2
2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy})phenethyl]amino}-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid
10% Palladium on charcoal (125 mg), followed by ammonium formate (553 mg, 8.77 mmol) were added to a solution of benzyl 2-[3-{[3-({2-[(tert-butoxycarbonyl)amino]ethoxy})phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate (preparation 129) (500 mg, 0.88 mmol) in methanol (10 ml), and the reaction stirred at room temperature overnight. The reaction mixture was filtered through Whatman® fibre, NaOH solution (8.77 ml, 1N, 8.77 mmol) was added to the filtrate, and the solution evaporated under reduced pressure. The residue was triturated with a 10% methanol:dichloromethane solution, the suspension filtered, the filtrate dried over MgSO4 and evaporated under reduced pressure to give the title compound as a white solid, (289 mg, 69%).

reactant | ammonium formate | 8.77 mmol, 553 mg | C(=O)[O-].[NH4+]
reactant | benzyl 2-[3-{[3-({2-[(tert-butoxycarbonyl)amino]ethoxy})phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 0.88 mmol, 500 mg | C(C)(C)(C)OC(=O)NCCOC=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C29H35ClN4O6
reactant | NaOH | 8.77 mmol, 1N, 8.77 ml | [OH-].[Na+]
catalyst | Palladium on charcoal | 125 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy})phenethyl]amino}-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | 289 mg, 69% | C(C)(C)(C)OC(=O)NCCOC=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1 | C22H30N4O6
